US05589478
To a mixture of 4,6-dichloropyrimidine (5.0 g), ethylene glycol (100 ml) and tetrahydrofuran (100 ml) is added sodium hydride (60% dispersion-type, 1.34 g) under ice-cooling. The mixture is stirred at the same temperature for two hours, and evaporated to remove the solvent. The residue is extracted with ethyl acetate, and the ethyl acetate extract is dried, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (solvent; chloroform/ethyl acetate=5:1~2:1) to give 2-(6-chloropyrimidin-4-yloxy)ethanol (5.67 g) as an oily product.

reactant | 4,6-dichloropyrimidine | 5.0 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | ethylene glycol | 100 ml | C(CO)O | C2H6O2
reactant | sodium hydride | 1.34 g | [H-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(6-chloropyrimidin-4-yloxy)ethanol | 5.67 g | ClC1=CC(=NC=N1)OCCO | C6H7ClN2O2
